US08471005B2
Into a par bottle, 1-(3-Methoxy-4-nitro-benzyl)-piperidin-4-ol (0.74 g, 2.8 mmol), Ethanol (20 mL) and 10% Pd/C (10:90, Palladium:carbon black, 0.30 g, 0.28 mmol) were added. The reaction mixture was evacuated and charged with hydrogen at 35 psi. The mixture was shaken for 3 hours. The solid was filtered through Celite and washed with methanol. The solvent was removed under vacuum to give 1-(4-Amino-3-methoxy-benzyl)-piperidin-4-ol as a semi-solid.

reactant | 1-(3-Methoxy-4-nitro-benzyl)-piperidin-4-ol | 2.8 mmol, 0.74 g | COC=1C=C(CN2CCC(CC2)O)C=CC1[N+](=O)[O-] | C13H18N2O4
catalyst | Pd/C | 0.28 mmol, 0.30 g | [Pd] | Pd
solvent | Ethanol | 20 mL | C(C)O | C2H6O
product | 1-(4-Amino-3-methoxy-benzyl)-piperidin-4-ol | NC1=C(C=C(CN2CCC(CC2)O)C=C1)OC | C13H20N2O2
